** sch_path: /home/shahid/GF180Projects/Tapeout/Xschem/Logic_Gates/INV_16x.sch
**.subckt INV_16x VDD VSS IN OUT
*.iopin VDD
*.iopin VSS
*.ipin IN
*.opin OUT
XM1 OUT IN VSS VSS nfet_03v3 L=2.24u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'
+ sa=0 sb=0 sd=0 m=1
XM2 OUT IN VDD VDD pfet_03v3 L=2.24u W=0.44u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W'
+ sa=0 sb=0 sd=0 m=1
**.ends
.end
